US09035059B2
Triphenylphosphine (2.86 g, 10.9 mmol) was added to a solution of (2-iodoethyl)cyclopropane obtained (2.14 g, 10.9 mmol) in acetonitrile (5 mL), and the mixture was heated to reflux for 15 hr. After cooling, diethyl ether was added thereto and a precipitaed solid was collected by filtration to afford (2-cyclopropylethyl)(triphenyl)phosphonium iodide as a colorless powder (3.87 g).

reactant | Triphenylphosphine | 10.9 mmol, 2.86 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (2-iodoethyl)cyclopropane | ICCC1CC1 | C5H9I
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | (2-cyclopropylethyl)(triphenyl)phosphonium iodide | 3.87 g | [I-].C1(CC1)CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C23H24P.HI/c1-4-10-21(11-5-1)24(19-18-20-16-17-20,22-12-6-2-7-13-22)23-14-8-3-9-15-23;/h1-15,20H,16-19H2;1H/q+1;/p-1
